US04315939
Using the method described in Example 1, 5.7 g of sodium in 250 ml of methanol, and 40 g of 3-(methoxycarbonylmethylamino)-2-methylcrotonic acid methyl ester in 90 ml of methanol, give 28.1 g of 3-hydroxy-4,5-dimethyl-pyrrole-2-carboxylic acid methyl ester, of melting point 170°-172° C.

reactant | sodium | 5.7 g | [Na] | Na
reactant | 3-(methoxycarbonylmethylamino)-2-methylcrotonic acid methyl ester | 40 g | COC(\C(=C(\C)/NCC(=O)OC)\C)=O | C9H15NO4
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 90 ml | CO | CH4O
product | 3-hydroxy-4,5-dimethyl-pyrrole-2-carboxylic acid methyl ester | 28.1 g | COC(=O)C=1NC(=C(C1O)C)C | C8H11NO3
